US04415572
N-(β-methoxyacryloyl)-p-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]aniline (5 g) was added portionwise to 50 ml of 60% H2SO4 while stirring at room temperature. After continuing the reaction for 2 hours, the reaction mixture was neutralized with 10 N NaOH to precipitate crystals which then were collected by filtration and washed with water. Recrystallization of the crystals from chloroform-methanol gave 230 mg of 6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]carbostyril, m.p. 265°-266.5° C. (decomp.), yellow granules.

reactant | N-(β-methoxyacryloyl)-p-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]aniline | 5 g | COC=CC(=O)NC1=CC=C(C=C1)N1CCN(CC1)C(C1=CC(=C(C=C1)OC)OC)=O | C23H27N3O5
reactant | NaOH | 10 N | [OH-].[Na+]
solvent | H2SO4 | 50 ml | OS(=O)(=O)O | H2O4S
product | 6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]carbostyril | 230 mg | COC=1C=C(C(=O)N2CCN(CC2)C=2C=C3C=CC(NC3=CC2)=O)C=CC1OC | C22H23N3O4
